US07915281B2
Under a nitrogen atmosphere, pyridine hydrochloride (0.020 g, 0.19 mmol), trimethyl orthobutyrate (2.1 g, 14 mmol), 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine (3.5 g, 9.5 mmol), and toluene (50 mL) were combined and heated at 110° C. for 18 hours. The volatiles were removed under reduced pressure. The crude product was purified by column chromatography on silica gel (250 g, eluting with 20% to 40% ethyl acetate in hexane) to provide 0.806 g of 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c]quinoline as a yellow solid.

reactant | trimethyl orthobutyrate | 14 mmol, 2.1 g | C(CCC)(OC)(OC)OC | C7H16O3
reactant | 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine | 9.5 mmol, 3.5 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1=CC(=NO1)C1=CC=C(C=C1)F | C19H14ClFN4O
catalyst | pyridine hydrochloride | 0.19 mmol, 0.020 g | Cl.N1=CC=CC=C1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c]quinoline | 0.806 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)CCC | C23H18ClFN4O
